US04710496
A solution of 33.6 g (210 millimoles) of 2,5-dimethoxytetrahydrofuran-3-carbaldehyde in 200 ml of glacial acetic acid was added dropwise to 40.6 g (200 millimoles) of 6-(4-aminophenyl)-4,5-dihydro-5-methylpyridazinone in 400 ml of glacial acetic acid at 80° C. After 2 hours, the reaction mixture was poured into saturated NaHCO3 solution and extracted with CH2Cl2. The extract was washed with water and saturated NaCl solution and dried over Na2SO4, the solvent was stripped off in a rotary evaporator, and the residue was then recrystallized from dimethylformamide (DMF)/water. 44.2 g of 6-[p-(3-formylpyrrol-1-yl)-phenyl]-4,5-dihydro-5-methylpyridazinone of melting point 191°-192° C. were obtained.

reactant | 2,5-dimethoxytetrahydrofuran-3-carbaldehyde | 210 millimoles, 33.6 g | COC1OC(CC1C=O)OC | C7H12O4
reactant | 6-(4-aminophenyl)-4,5-dihydro-5-methylpyridazinone | 200 millimoles, 40.6 g | NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H13N3O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
product | 6-[p-(3-formylpyrrol-1-yl)-phenyl]-4,5-dihydro-5-methylpyridazinone | 44.2 g | C(=O)C1=CN(C=C1)C1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C16H15N3O2
